US07465795B2
4-amino-8-(6-methoxy-3-pyridyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.49 mmol) and (6-methoxypyridin-3-yl)boronic acid (153 mg, 1.00 mmol) were reacted to afford the title compound (117 mg, 72% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ8.55 (bs, 1H), 8.43 (d, J=1.65 Hz, 1H), 8.05 (dd, J=8.5, 1.9 Hz, 1H), 7.87 (d, J=7.9 Hz, 1H), 7.71-7.81 (m, 2H), 6.89 (d, J=8.5 Hz, 1H), 4.01 (s, 3H), 3.46 (apparent q, J=6.6 Hz, 2H), 1.67 (apparent sextet, J=7.2 Hz, 2H), 1.01 (t, J=7.4 Hz, 3H). MS APCI, m/z=338 (M+H) HPLC 1.73 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.49 mmol, 150 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | (6-methoxypyridin-3-yl)boronic acid | 1.00 mmol, 153 mg | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
product | 4-amino-8-(6-methoxy-3-pyridyl)-N-propyl-cinnoline-3-carboxamide | 117 mg, 72% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C=NC(=CC1)OC)C(=O)NCCC | C18H19N5O2
